US05783723
To a stirred solution of dimethyl succinate (400.1 g., 98.7% purity, 2.7 mole) and dry methanol (13 g., 0.4 mole) at 30° C. under nitrogen is added over 1.5 hour a stirred slurry of finely divided sodium (22.1 g., 0.96 mole) in dimethyl succinate (83.4 g., 0.57 mole). The temperature rises to 45° C. maximum. The mixture is heated to 76° C. and the methanol stripped off over two hours. Additional dimethyl succinate is added (200 g., 1.38 mole) to maintain the fluidity of the reaction. On completion of methanol distillation, methanol is added (400 g., 12.5 mole) and the mixture cooled to 30° C., filtered and the excess dimethyl succinate washed out with dry methanol. The resulting filtercake is reslurried in methanol and added to 15% aqueous sulfuric acid (330 g.), cooled to 24° C. then filtered, washed with water to remove the sodium sulfate, and dried. A yield of 81% of theory dimethyl succinylsuccinate is obtained.

reactant | dimethyl succinate | 2.7 mole, 400.1 g | C(CCC(=O)OC)(=O)OC | C6H10O4
reactant | sodium | 0.96 mole, 22.1 g | [Na] | Na
reactant | dimethyl succinate | 0.57 mole, 83.4 g | C(CCC(=O)OC)(=O)OC | C6H10O4
solvent | methanol | CO | CH4O
solvent | methanol | 0.4 mole, 13 g | CO | CH4O
product | dimethyl succinylsuccinate | yield of 81% | COC(=O)C1CC(=O)C(CC1=O)C(=O)OC | C10H12O6
